### PR TITLE
[Merged by Bors] - chore(AlgebraicTopology): clean up `erw` and porting notes

### PR DESCRIPTION
**Pull request by Vierkantor**
I searched for `erw` and `porting note` and did my best to fix them. One issue that might be tackled for some profit further down is that `ExtraDegeneracy.s` has a type which is not in `simp`-normal form, and so we need a lot of `erw`s downstream. The obvious replacement of the type with the `simpNF`'d type does not typecheck, unfortunately, so this is something to think about more carefully.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean [hunk 1]
```diff
@@ -810,8 +810,8 @@ theorem eq_comp_δ_of_not_surjective' {n : ℕ} {Δ : SimplexCategory} (θ : Δ
     ext x : 3
     dsimp [δ, σ]
     simp_rw [Fin.succAbove_last, Fin.predAbove_last_apply]
-    erw [dif_neg (hi x)]
-    rw [Fin.castSucc_castPred]
+    rw [dif_neg, Fin.castSucc_castPred]
+    · exact hi x
```
Comment (Ruben-VandeVelde) [inline Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean:814]: This one looks more like hiding that `hi x` doesn't match exactly

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks, these look mostly better. Just one where I'm less convinced.

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by Vierkantor** [comment]
bors merge
